US06914069B2
Compound 3-A: 6-Hydroxy-1-(3-pyridinyl)-hexan-1,3-dione
A solution of γ-butyrolactone (1.92 mL, 2.15 g, 25.0 mmol), 60% suspension of sodium hydride in mineral oil (300 mg, 7.50 mmol) and 3-acetylpyridine (551 μL, 606 mg, 5.00 mmol) in dimethylsulfoxyde (4 mL) and tetrahydrofuran (36 mL) was stirred overnight at 25° C. Ethanol (4 mL) was added to destroy excess sodium hydride and the reaction mixture was adsorbed on silica gel (10 g). Flash chromatography on silica gel (75 g), eluting with DCM/MeOH/NH4OH (96/4/1), gave 1.14 g of a yellow oil containing compound 3-A (0.62 g, 60%).

reactant | γ-butyrolactone | 25.0 mmol, 1.92 mL, 2.15 g | C1(CCCO1)=O | C4H6O2
reactant | sodium hydride | [H-].[Na+]
reactant | 3-acetylpyridine | 5.00 mmol, 551 μL, 606 mg | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | Ethanol | 4 mL | C(C)O | C2H6O
solvent | dimethylsulfoxyde | 4 mL | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 36 mL | O1CCCC1 | C4H8O
product | 6-Hydroxy-1-(3-pyridinyl)-hexan-1,3-dione | 1.14 g | OCCCC(CC(=O)C=1C=NC=CC1)=O | C11H13NO3
